US07678926B2
2-(5-Chloro-1-methanesulfonyl-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol
This compound was prepared using the standard Sonagashira procedure as described in General Procedures Example C, reacting from N-(4-chloro-2-iodo-5-trifluoromethyl-phenyl)-methanesulfonamide (0.60 g, 1.5 mmol) and 3-(2,2,2-Trifluoro-ethylsulfanylmethyl)-pent-1yn-3-ol (0.32 g, 1.5 mmol) to yield the title compound as a yellow sticky oil.

reactant | N-(4-chloro-2-iodo-5-trifluoromethyl-phenyl)-methanesulfonamide | 1.5 mmol, 0.60 g | ClC1=CC(=C(C=C1C(F)(F)F)NS(=O)(=O)C)I | C8H6ClF3INO2S
reactant | 3-(2,2,2-Trifluoro-ethylsulfanylmethyl)-pent-1yn-3-ol | 1.5 mmol, 0.32 g | FC(CSCC(C#C)(CC)O)(F)F | C8H11F3OS
product | 2-(5-Chloro-1-methanesulfonyl-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | ClC=1C=C2C=C(N(C2=CC1C(F)(F)F)S(=O)(=O)C)C(CSCC(F)(F)F)(CC)O | C16H16ClF6NO3S2
